US07125898B2
3-Iodo-4-methylbenzoic acid (154 mg, 0.59 mmol) was heated at 80° C. in thionyl chloride (2 ml) for 3 hrs. The reaction was allowed to cool to room temperature and the excess thionyl chloride evaporated under vacuum. The residue was dissolved in acetone (3 ml), 2-(3-aminophenyl)pyridine (100 mg, 0.59 mmol) and sodium carbonate (400 mg) were added to the solution. The reaction was stirred at room temperature for 11 days, filtered and the filtrate reduced to dryness under vacuum. The residue was dissolved in ether and filtered through a bond-elut (1 g, silica), washing with ether. The solvent was evaporated from the combined filtrate and washings to give 3-iodo-4-methyl-N-(3-pyridin-2-yl-phenyl)benzamide as a cream foam. NMR: δH CDCl3 8.70,(1H, dt), 8.33,(1H, d), 8.18,(1H, t), 7.93–7.89,(2H, m), 7.79–7.75, (4H, m), 7.50,(1H, t), 7.35,(1H, d), 7.26,(1H, m), 2.51,(3H, s).

reactant | 3-Iodo-4-methylbenzoic acid | 0.59 mmol, 154 mg | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | 2-(3-aminophenyl)pyridine | 0.59 mmol, 100 mg | NC=1C=C(C=CC1)C1=NC=CC=C1 | C11H10N2
reactant | sodium carbonate | 400 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-iodo-4-methyl-N-(3-pyridin-2-yl-phenyl)benzamide | IC=1C=C(C(=O)NC2=CC(=CC=C2)C2=NC=CC=C2)C=CC1C | C19H15IN2O
